US07745484B2
Step 2: (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylpyridin-4-yl)methyl)oxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(pyridin-4-ylmethyl)oxazolidine-3-carboxylate (0.150 g, 0.344 mmol) was dissolved in THF (3.5 mL) and cooled to 0° C. Acetyl chloride (0.0256 ml, 0.361 mmol) was added and the reaction was stirred 30 minutes before METHYLMAGNESIUM BROMIDE (0.294 ml, 0.412 mmol) was added. The reaction was stirred 1 hr. at 0° C. and then warmed to RT and quenched with saturated ammonium chloride and diluted with EtOAc and water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with a 9:1 aqueous solution of saturated ammonium chloride/ammonium hydroxide, water, brine, and dried over sodium sulfate. The crude product was dissolved in isopropylacetate (4 mL) and heated to 50° C. before DDQ (0.117 g, 0.515 mmol) was added. After 30 minutes the reaction was cooled and diluted with ethyl acetate and washed twice with saturated sodium bicarbonate, once with water, brine, and dried over sodium sulfate. The mixture was passed through a plug of silica gel with 2:1 Hexanes/EtOAc and concentrated to afford the title compound, MS m/z: 451.3(100%, M+1)).

reactant | (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(pyridin-4-ylmethyl)oxazolidine-3-carboxylate | 0.344 mmol, 0.150 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC=NC=C1 | C23H40N2O4Si
reactant | Acetyl chloride | 0.361 mmol, 0.0256 ml | C(C)(=O)Cl | C2H3ClO
reactant | METHYLMAGNESIUM BROMIDE | 0.412 mmol, 0.294 ml | C[Mg]Br
reactant | DDQ | 0.515 mmol, 0.117 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylpyridin-4-yl)methyl)oxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC(=NC=C1)C | C24H42N2O4Si
